US09428452B2
N-(2,4-dimethylphenyl)-4-formyl-N-isobutylbenzenesulfonamide
To a solution of (2,4-dimethylphenyl)(2-methylpropyl)amine (400 mg, 2.256 mmol) in pyridine (5 mL) stirred in air at room temperature was added 4-formylbenzene-1-sulfonyl chloride (760 mg, 3.71 mmol) in one charge. The reaction mixture was stirred at 20° C. for 30 minutes and then stood for 6 hours. The solvent was evaporated in vacuo (Vaportec V10) to give the crude product. The crude was purified by silica (Si) chromatography (0-25% ethyl acetate-cyclohexane). The appropriate fractions were combined and evaporated in vacuo to give the required product, 794 mg as a colourless gum. LCMS [LCMS1] Rt 1.33 min, m/z (ES+) 346 (M+H).

reactant | (2,4-dimethylphenyl)(2-methylpropyl)amine | 2.256 mmol, 400 mg | CC1=C(C=CC(=C1)C)NCC(C)C | C12H19N
reactant | 4-formylbenzene-1-sulfonyl chloride | 3.71 mmol, 760 mg | C(=O)C1=CC=C(C=C1)S(=O)(=O)Cl | C7H5ClO3S
solvent | pyridine | 5 mL | N1=CC=CC=C1 | C5H5N
product | N-(2,4-dimethylphenyl)-4-formyl-N-isobutylbenzenesulfonamide | CC1=C(C=CC(=C1)C)N(S(=O)(=O)C1=CC=C(C=C1)C=O)CC(C)C | C19H23NO3S
